US06537948B1
A solution of 2.5 g of crude product of 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-1,2,5-thiadiazole in 20 ml of trifluoroacetic acid was stirred over night at room temperature. The solution was concentrated, and the residue was subjected to silica gel column chromatography to obtain 0.50 g of 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-hydroxy-1,2,5-thiadiazole.

reactant | 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-1,2,5-thiadiazole | C(C1=CC=CC=C1)OC=1C(=NSN1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C21H13ClF4N4O4S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-hydroxy-1,2,5-thiadiazole | 0.50 g | ClC1=C(OC2=NSN=C2O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H7ClF4N4O4S
